US07176306B2
A solution of sodium thiomethoxide (7.0 g, 100 mmol) in dimethyl sulfoxide (100 mL) was added to a solution of N-[2,4-dichloro-6-methylpyridin-3-yl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide (7.0 g, 20 mmol) and 18-crown-6 (530 mg, 2 mmol) in dimethyl sulfoxide (14 mL). The resulting mixture was stirred for 1 hour at 100° C. The reaction mixture was allowed to cool, and then chloroform and water were added thereto. The organic layer was collected from the mixture, and the aqueous layer was further extracted with chloroform. The organic layers were combined together, and the combined organic layer was washed sequentially with water and saturated brine, followed by drying over sodium sulfate anhydrate. The solvent was removed therefrom. The aqueous layer which had been employed for washing was extracted with chloroform, and the obtained organic layer was washed sequentially with water and saturated brine. Subsequently, the solution was dried over sodium sulfate anhydrate, and the solvent was removed. The combined residue was purified through silica gel column chromatography (developer: chloroform/ammonia-saturated methanol=20/1), to thereby yield 6.68 g of 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide as colorless crystals (yield: 90.1%). The product was recrystallized from ethanol-diethyl ether, to thereby yield the product as colorless needles.

reactant | sodium thiomethoxide | 100 mmol, 7.0 g | C[S-].[Na+]
reactant | N-[2,4-dichloro-6-methylpyridin-3-yl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide | 20 mmol, 7.0 g | ClC1=NC(=CC(=C1NC(CN1CCN(CC1)CCO)=O)Cl)C | C14H20Cl2N4O2
reactant | 18-crown-6 | 2 mmol, 530 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 14 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-[4-(2-hydroxyethyl)piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methylpyridin-3-yl]acetamide | yield 6.68 g, yield: 90.1% | OCCN1CCN(CC1)CC(=O)NC=1C(=NC(=CC1SC)C)SC | C16H26N4O2S2
